US04769380
5-Benzoyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarboxamide
Admix 80 ml 35% hydrochloric acid and 20 g (0.078 mole) of 5-benzoyl-1,2-dihydro-6-methyl-2-oxo-3-pyridine carbonitrile, stir the mixture at 40° C. for 5 hours, cool, and dilute the resulting mixture with 80 ml water. Collect the title compound as a precipitate.

reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | 5-benzoyl-1,2-dihydro-6-methyl-2-oxo-3-pyridine carbonitrile | 0.078 mole, 20 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(NC1C)=O)C#N | C14H10N2O2
reactant | water | 80 ml | O | H2O
product | 5-Benzoyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarboxamide | C(C1=CC=CC=C1)(=O)C=1C=C(C(NC1C)=O)C(=O)N | C14H12N2O3
